US05665748
A mixture of 3-[2-(2-naphthylmethyl)benzoxazol-5-yl]propionaldehyde (2.9 g), ethylene glycol (0.685 g), P-toluenesulfonic acid monohydrate (0.175 g) and benzene (50 ml) was stirred for 3 hours under reflux. The reaction mixture was successively washed with aqueous solution of sodium hydrogencarbonate and water, and dried over magnesium sulfate (MgSO4). The solvent was distilled off, whereby 5-[2-(1,3-dioxolan-2-yl)ethyl]-2-(2-naphthylmethyl)benzoxazole (2.95 g, 89%) was obtained. Recrystallization from dichloromethane-isopropyl ether gave colorless prisms. Melting point: 85°-86° C.

reactant | 3-[2-(2-naphthylmethyl)benzoxazol-5-yl]propionaldehyde | 2.9 g | C1=C(C=CC2=CC=CC=C12)CC=1OC2=C(N1)C=C(C=C2)CCC=O | C21H17NO2
reactant | ethylene glycol | 0.685 g | C(CO)O | C2H6O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5-[2-(1,3-dioxolan-2-yl)ethyl]-2-(2-naphthylmethyl)benzoxazole | 2.95 g, 89% | O1C(OCC1)CCC=1C=CC2=C(N=C(O2)CC2=CC3=CC=CC=C3C=C2)C1 | C23H21NO3
